US07790770B2
To a solution of [1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene](3-chloropyridyl)palladium(H) dichloride (8 mg, 0.01 mmol) in NMP (0.5 mL) was added isobutylzinc(II) bromide in THF (0.5 M, 0.7 mL, 0.35 mmol) followed by (S)-1-(3-bromo-4-fluorophenyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine, prepared as described Procedure 62, 5 and 6, (50 mg, 0.11 mmol) in anhydrous THF. The reaction mixture was heated at 75° C. overnight. The reaction mixture was diluted with EtOAc and the organic layer was washed with sat. NH4Cl, dried over Na2SO4 and concentrated to yield (R)-1-(4-fluoro-3-isobutylphenyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine. LCMS: RT=3.62 min [M−NH2] 417 (Waters Sunfire-S5-C18 4.6×50 mm, eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm).

reactant | isobutylzinc(II) bromide | [Br-].C(C(C)C)[Zn+]
reactant | (S)-1-(3-bromo-4-fluorophenyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | BrC=1C=C(C=CC1F)[C@@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F | C21H15BrF5N
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 0.35 mmol, 0.5 M, 0.7 mL | C1CCOC1 | C4H8O
product | (R)-1-(4-fluoro-3-isobutylphenyl)-1-(3-fluoro-5-(trifluoromethyl)phenyl)-2-phenylethanamine | 18% yield | FC1=C(C=C(C=C1)[C@@](CC1=CC=CC=C1)(N)C1=CC(=CC(=C1)C(F)(F)F)F)CC(C)C | C25H24F5N
